US06326359B1
2-Chloro-N-phenethyl-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine
Phenethylamine (7.0 g, 58.4 mmol) was added to a stirred solution of 2,6-dichloro-9-tetrahydro-2H-pyran-2-yl-9H-purine (14.5 g, 53.1 mmol) (preparation 5) and triethylamine (21 g, 212.5 mmol) in acetonitrile (200 ml). The reaction mixture was stirred for 3 hr at room temperature and then more phenethylamine (1 g, 8.3 mmol) was added. The reaction mixture was stirred for a further 1 hr and then the solvent was removed under reduced pressure to give a residue which was partitioned between diethyl ether (500 ml) and water (250 ml). The diethyl ether layer was washed with more water (300 ml). The solvent was removed from the organic phase under reduced pressure to give a residue which was purified by column chromatography on silica gel eluting with diethyl ether to give the title compound (17.9 g) as a white solid.

reactant | Phenethylamine | 58.4 mmol, 7.0 g | C(CC1=CC=CC=C1)N | C8H11N
reactant | 2,6-dichloro-9-tetrahydro-2H-pyran-2-yl-9H-purine | 53.1 mmol, 14.5 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)Cl | C10H10Cl2N4O
reactant | triethylamine | 212.5 mmol, 21 g | C(C)N(CC)CC | C6H15N
reactant | phenethylamine | 8.3 mmol, 1 g | C(CC1=CC=CC=C1)N | C8H11N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2-Chloro-N-phenethyl-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine | 17.9 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)NCCC1=CC=CC=C1 | C18H20ClN5O
